US06479513B2
14A. 6-[Amino-(6-methyl-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-l H-quinolin-2-one
To [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(6-methyl-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanol (0.118 g, 0.251 mmol) in toluene (5 ml) under an atmosphere of dry N2 was added thionyl chloride (0.18 ml, 2.51 mmol) dropwise. The reaction mixture was heated at 85° C. for 15 hours. Solvent and the excess thionyl chloride were removed under reduced pressure. The crude chloride was taken up in toluene and concentrated under vacuum. The resulting solid was dissolved in THF (10 mL) and to this solution at −78° C. was bubbled ammonia gas (NH3) for 10 minutes. The reaction mixture was stirred at ambient temperature under an atmosphere of N2 for additional 1.5 hours. After removal of THF, the product mixture was partitioned between CHCl3 and water. The organic layer was washed, dried over MgSO4 and concentrated under vacuum to give a brown solid. This was chromatographed on silica gel with CHCl3 then MeOH—CHCl3—NH4OH (5:95:0.1 to 10:89:1) as eluents to afford the title compound of Example 14A as a white solid (53 mg, 0.116 mmol, 46.4% yield).

reactant | [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(6-methyl-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanol | 0.251 mmol, 0.118 g | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C=1N(C=NC1)C)C=1C=NC(=CC1)C)OC | C27H23ClN4O2
reactant | thionyl chloride | 2.51 mmol, 0.18 ml | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH CHCl3 NH4OH | CO.C(Cl)(Cl)Cl.[NH4+].[OH-]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 6-[Amino-(6-methyl-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-l H-quinolin-2-one | 0.116 mmol, 53 mg, 46.4% yield | NC(C=1C=C2C(=CC(NC2=CC1)=O)C1=CC(=CC=C1)Cl)(C=1N(C=NC1)C)C=1C=NC(=CC1)C | C26H22ClN5O
